US07723331B2
b) 1-{3-[(1,3-Dimethylpiperidin-3-yl)methoxy]phenyl}methanamine
3-[(1,3-Dimethylpiperidin-3-yl)methoxy]benzonitrile (0.53 g, 2.2 mmol) was dissolved in MeOH (30 mL)/NH3(sat) (0.05M) and hydrogenated over a Raney Nickel CatCart (30×4 mm) using the H-Cube system at 50 bar and 50° C. at a flow rate of 1 mL/min. LC-MS showed <100% conversion so the process was repeated. The reaction mixture was concentrated and dried in vacuo, which gave the product as a clear oil. Yield: 0.48 g (90%). 1H NMR (400 MHz, CD3OD) δ 7.13 (t, 1H, J=8.12 Hz), 6.85 (s, 1H), 6.80 (d, 1H, J=7.61 Hz), 6.72 (d, 1H, J=7.61 Hz), 3.74 (m, 2H), 3.67 (s, 2H), 3.23 (s, 2H), 2.04-2.43 (m, 7H), 1.48-1.63 (m, 3H), 1.20 (m, 1H), 1.02 (s, 3H).

reactant | 3-[(1,3-Dimethylpiperidin-3-yl)methoxy]benzonitrile | 2.2 mmol, 0.53 g | CN1CC(CCC1)(C)COC=1C=C(C#N)C=CC1 | C15H20N2O
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
product | 1-{3-[(1,3-Dimethylpiperidin-3-yl)methoxy]phenyl}methanamine | CN1CC(CCC1)(C)COC=1C=C(C=CC1)CN | C15H24N2O
